US06197975B1
Step 3.2E {2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl) phenyl)-butyl]carbamic acid tert-butyl ester
To a solution of {2-[2-(3,5-dimethylphenyl)-5-isocyanato-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl] carbamic acid tert-butyl ester (30 mg in 0.50 mL dry methylene chloride) was added 9 mg of 2-azido-1-phenyl-ethanone followed by 14 mg triphenylphosphine and the mixture stirred at room temperature. After 4 hours, the mixture was applied to a silica gel column for purification by flash chromatography (hexane:ethyl acetate, 3:2; then 1:1; then 2:3; then 1:3) to give the title compound (13 mg).

reactant | {2-[2-(3,5-dimethylphenyl)-5-isocyanato-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl] carbamic acid tert-butyl ester | 0.50 mL, 30 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)N=C=O)C1=CC(=CC(=C1)C)C)=O | C36H44N4O7S2
reactant | 2-azido-1-phenyl-ethanone | 9 mg | N(=[N+]=[N-])CC(=O)C1=CC=CC=C1 | C8H7N3O
reactant | triphenylphosphine | 14 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | {2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl) phenyl)-butyl]carbamic acid tert-butyl ester | 13 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC=1OC(=CN1)C1=CC=CC=C1)C1=CC(=CC(=C1)C)C)=O | C44H51N5O7S2
